US06162818
Ethylenediamine (0.289 mL, 4.33 mmol) is added to a solution of 4-isothiocyanatoindole (0.150 g, 0.866 mmol) in methylene chloride (10 mL). The clear solution becomes cloudy within a few seconds with the formation of a white precipitate. The reaction mixture is stirred for one hour followed by the removal of most of the methylene chloride by rotary evaporation. The mixture is filtered and the white precipitate is dried to afford 0.185 g of 4-[N'-(2-aminoethyl)thioureido]indole (91% yield).

reactant | Ethylenediamine | 4.33 mmol, 0.289 mL | C(CN)N | C2H8N2
reactant | 4-isothiocyanatoindole | 0.866 mmol, 0.150 g | N(=C=S)C1=C2C=CNC2=CC=C1 | C9H6N2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[N'-(2-aminoethyl)thioureido]indole | 0.185 g, 91% yield | NCCNC(NC1=C2C=CNC2=CC=C1)=S | C11H14N4S
